2148-09-17 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2148-9-16**] 10:06 AM
 FEVER - 101.4
F - [**2148-9-17**] 12:00 AM
   Resp said no cuff leak
   CK's trending down
   OSH records requested, not here yet
   Solvent he ingested called butanediol--> communicated to TOX c/s
   service
   ENT: unable to do DL as nurse would not give succ. Plan: keep checking
   for cuff leak x next 2 days. If no cuff leak they will come back and do
   DL.
   -ABG @ 5 pm - 7.44/40/123 on PSV 5/5, 40% FiO2
   -Tox consult: cont to monitor
   -EKG at 9 pm WNL
   Allergies:
   Last dose of Antibiotics:
   Clindamycin - [**2148-9-16**] 02:30 PM
   Levofloxacin - [**2148-9-16**] 02:30 PM
   Vancomycin - [**2148-9-17**] 07:10 AM
   Infusions:
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2148-9-16**] 09:31 AM
   Lorazepam (Ativan) - [**2148-9-16**] 09:31 AM
   Diazepam (Valium) - [**2148-9-16**] 09:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-17**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.8
   HR: 82 (81 - 116) bpm
   BP: 113/63(75) {83/47(55) - 146/89(99)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74.4 kg
   Height: 67 Inch
             Total In:
                                                                  3,687 mL
                                                                  1,285 mL
   PO:
             TF:
   IVF:
                                                                  3,687 mL
                                                                  1,255 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    745 mL
   Urine:
                                                                  1,130 mL
                                                                    745 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,307 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 501 (412 - 501) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/40/123/28/3
   Ve: 7.7 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   13.0 g/dL
   146 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.4 mEq/L
   10 mg/dL
   105 mEq/L
   141 mEq/L
   40.4 %
   12.8 K/uL
        [image002.jpg]
                             [**2148-9-15**]  10:23 PM
                             [**2148-9-15**]  10:41 PM
                             [**2148-9-16**]  02:14 AM
                             [**2148-9-16**]  05:01 AM
                             [**2148-9-16**]  02:38 PM
                             [**2148-9-16**]  04:58 PM
                             [**2148-9-17**]  02:27 AM
   WBC
   12.8
   14.8
   12.8
   Hct
   51.9
   49
   47.5
   40.4
   Plt
   293
   261
   218
   Cr
   0.8
   0.8
   0.9
   TropT
   0.07
   0.08
   0.02
   0.03
   TCO2
   22
   24
   28
   Glucose
   94
   117
   146
   Other labs: PT / PTT / INR:12.6/28.8/1.1, CK / CKMB /
   Troponin-T:501/4/0.03, ALT / AST:15/37, Alk Phos / T Bili:81/0.5,
   Differential-Neuts:79.6 %, Band:0.0 %, Lymph:13.2 %, Mono:2.1 %,
   Eos:4.8 %, Lactic Acid:1.1 mmol/L, LDH:258 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: cxr:
   The endotracheal tube and NG tube are unchanged. There are new
   bilateral lower lobe infiltrates and a small left effusion.
   Microbiology: [**2148-9-16**]  SPUTUM GRAM STAIN c 4+ GNRs and 3+GPCs;
   RESPIRATORY CULTURE-PRELIMINARY INPATIENT
   [**2148-9-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2148-9-15**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2148-9-15**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   Assessment and Plan
 POISONING / OVERDOSE, OTHER
   30 y/o M with PMHx of Substance Abuse who presents with AMS s/p
   ingestion, now s/p traumatic intubation for hypercarbic respiratory
   failure.
   .
   # Altered Mental Status s/p ingestion: Pt with long h/o polysubstance
   abuse who was found down with multiple toxins/drugs surronding him.
   Pt with mildly elevated gap at 16 and multiple possible toxins
   including ETOH, cocaine and sedatives.  Suspect that ingestion took
   place hours ago and gap already closing and ETOH level low.  Tox screen
   negative for salicylates, no e/o uremia, lactate NL.
   - check  EKG
   - monitor for seizure activity
   - toxicology consult in am
   - serial ABGs
   - avoid additional sedatives if possible
   - no ketones in urine
   - D5 with 1/2 NS overnight
   .
   # Hypercarbic Respiratory Failure: likely due to CNS depression after
   multiple ingestions. Initial ABG taken during attempted intubations
   showed severe respiratory acidosis though repeat ABG on arrival to ICU
   revealed 7.35/38/174.  Pt sating well on FiO2 50% and PEEP 5.
   - change to pressure support
   - RSBI in am
   - wean sedation
   - ENT consult re airway in am, possible extubation if MS recovers, will
   start steroids decadron 6mg q6h x1d and will reassess
   .
   # Upper Airway trauma: Pt had multiple attempts at endotracheal
   intubation and eventually required nasotracheal intubation. Now with
   significant oral/nasal/pharyngeal trauma/bleeding.  Concern for
   tracheal edema as a barrier to extubation.  Addition possibility of
   aspiration in setting of failed intubations.
   - f/u CXR in am
   - consult ENT prior to extubation
   - trend coags/CBC
   .
   #?pna: will continue vanc, clinda, levoflox awaiting culture data
   .
   # EKG abnormalities: Initial EKG revealed inverted p waves c/w ectopic
   atrial pacemaker, repeat EKGs now is sinus but he remains
   tachy/hypertensive.
   - f/u am EKG
   - cycle cardiac enzymes
   .
   # FEN: NPO for now with IVF
   - replete electrolytes aggressively
   .
   # Prophylaxis: Pneumoboots, famotidine while intubated
   .
   # Access: 2 PIV
   .
   # Code: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-9-15**] 09:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-09-17 11:54:00 Physician Attending Progress Note
Chief Complaint: Benzodiazapine overdose, respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Unable to get full ENT exam
   Still no cuff leak
   24 Hour Events:
 EKG - At [**2148-9-16**] 10:06 AM
 FEVER - 101.4
F - [**2148-9-17**] 12:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Clindamycin - [**2148-9-16**] 02:30 PM
   Levofloxacin - [**2148-9-16**] 02:30 PM
   Vancomycin - [**2148-9-17**] 07:10 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2148-9-16**] 09:54 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2148-9-17**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.5
C (99.5
   HR: 73 (73 - 111) bpm
   BP: 109/60(71) {83/47(55) - 142/81(93)} mmHg
   RR: 12 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74.4 kg
   Height: 67 Inch
             Total In:
                                                                  3,687 mL
                                                                  1,845 mL
   PO:
             TF:
   IVF:
                                                                  3,687 mL
                                                                  1,815 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                  1,195 mL
   Urine:
                                                                  1,130 mL
                                                                  1,195 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,307 mL
                                                                    650 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 483 (412 - 501) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/40/123/28/3
   Ve: 6.4 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.0 g/dL
   218 K/uL
   146 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.4 mEq/L
   10 mg/dL
   105 mEq/L
   141 mEq/L
   40.4 %
   12.8 K/uL
        [image002.jpg]
                             [**2148-9-15**]  10:23 PM
                             [**2148-9-15**]  10:41 PM
                             [**2148-9-16**]  02:14 AM
                             [**2148-9-16**]  05:01 AM
                             [**2148-9-16**]  02:38 PM
                             [**2148-9-16**]  04:58 PM
                             [**2148-9-17**]  02:27 AM
   WBC
   12.8
   14.8
   12.8
   Hct
   51.9
   49
   47.5
   40.4
   Plt
   293
   261
   218
   Cr
   0.8
   0.8
   0.9
   TropT
   0.07
   0.08
   0.02
   0.03
   TCO2
   22
   24
   28
   Glucose
   94
   117
   146
   Other labs: PT / PTT / INR:12.6/28.8/1.1, CK / CKMB /
   Troponin-T:501/4/0.03, ALT / AST:15/37, Alk Phos / T Bili:81/0.5,
   Differential-Neuts:79.6 %, Band:0.0 %, Lymph:13.2 %, Mono:2.1 %,
   Eos:4.8 %, Lactic Acid:1.1 mmol/L, LDH:258 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   30 y/o M with PMHx of Substance Abuse who presents with AMS s/p
   ingestion, now s/p traumatic intubation for hypercarbic respiratory
   failure.
   .
   # Altered Mental Status s/p ingestion: Toxicology following.
   Supportive care.  EKGs normal
   .
   # Hypercarbic Respiratory Failure: On minimal settings at moment - PSV
   [**5-14**].  Attempts at extubation pending information from ENT eval. Cont
   clinda/levoflox for now - still with feveres though CXR with infiltrate
   .
   # Upper Airway trauma: ENT evauation today with paralytics on board
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-9-15**] 09:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2148-09-18 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2148-9-17**] 08:41 PM
   -Started tube feeds
   -This AM, still no cuff leak. ENT came by and did DL with vecuronium.
   Evidence of soft tissue swelling. Plan to check for cuff leak again
   tomorrow. If leak, would feel more comfortable with extubation. NPO
   after midnight for potential extubation.
   -Started on decadron 6mg IV Q6 x 4 doses for soft tissue edema
   -No new recs from clinical tox
   -Got EKG, showed QTC of 470's. This has been progressively increasing
   (450's yesterday, 390's on admission). Should get repeat EKG in AM?
   Otherwise normal EKG, no increase in QRS.
   -Consulted social work
   -Still unable to get records from [**Hospital1 987**] (fellow without access)
   -EJ pulled, additional peripheral placed
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2148-9-16**] 02:30 PM
   Vancomycin - [**2148-9-17**] 08:00 PM
   Clindamycin - [**2148-9-18**] 02:00 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-18**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 79 (61 - 82) bpm
   BP: 124/80(88) {91/49(58) - 139/80(98)} mmHg
   RR: 23 (8 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 74.4 kg
   Height: 67 Inch
             Total In:
                                                                  3,949 mL
                                                                    871 mL
   PO:
             TF:
                                                                     98 mL
                                                                      1 mL
   IVF:
                                                                  3,731 mL
                                                                    840 mL
   Blood products:
   Total out:
                                                                  2,615 mL
                                                                    605 mL
   Urine:
                                                                  2,615 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,334 mL
                                                                    266 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 716 (412 - 716) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   265 K/uL
   12.2 g/dL
   157 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.6 mEq/L
   8 mg/dL
   107 mEq/L
   142 mEq/L
   38.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2148-9-15**]  10:23 PM
                             [**2148-9-15**]  10:41 PM
                             [**2148-9-16**]  02:14 AM
                             [**2148-9-16**]  05:01 AM
                             [**2148-9-16**]  02:38 PM
                             [**2148-9-16**]  04:58 PM
                             [**2148-9-17**]  02:27 AM
                             [**2148-9-18**]  02:43 AM
   WBC
   12.8
   14.8
   12.8
   6.2
   Hct
   51.9
   49
   47.5
   40.4
   38.0
   Plt
   293
   261
   218
   265
   Cr
   0.8
   0.8
   0.9
   0.7
   TropT
   0.07
   0.08
   0.02
   0.03
   TCO2
   22
   24
   28
   Glucose
   94
   117
   146
   157
   Other labs: PT / PTT / INR:12.4/34.0/1.0, CK / CKMB /
   Troponin-T:501/4/0.03, ALT / AST:15/37, Alk Phos / T Bili:81/0.5,
   Differential-Neuts:79.6 %, Band:0.0 %, Lymph:13.2 %, Mono:2.1 %,
   Eos:4.8 %, Lactic Acid:1.1 mmol/L, LDH:258 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: Compared to yesterday's studies, there is improvement in the
   right lower lobe
   opacity that might be consistent with gradual resolution of aspiration.
   The
   left retrocardiac opacity and left lower lung opacity is unchanged and
   might
   be due to aspiration as well, given its rapid development between
   [**2148-9-15**] at 07:54 p.m. and [**2148-9-16**], at 5:29 a.m. radiograph and
   should
   be closely followed. The upper lungs are clear and there is no evidence
   of
   failure, appreciable pleural effusion or pneumothorax.
   Microbiology: [**2148-9-17**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT
   [**2148-9-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2148-9-17**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2148-9-16**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
   [**2148-9-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2148-9-15**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2148-9-15**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   Assessment and Plan
 POISONING / OVERDOSE, OTHER
   30 y/o M with PMHx of Substance Abuse who presents with AMS s/p
   ingestion, now s/p traumatic intubation for hypercarbic respiratory
   failure.
   .
   # Altered Mental Status s/p ingestion: Pt with long h/o polysubstance
   abuse who was found down with multiple toxins/drugs surronding him,
   including solvent.   Pt with mildly elevated gap at 16 and multiple
   possible toxins including ETOH, cocaine and sedatives.  Gap has closed
   and ETOH level low.  Tox screen negative for salicylates, no e/o
   uremia, lactate NL.
   - EKG with QT interval that has been gradually prolonging over hospital
   stay; need to f/u with tox as to significance of this. Also, needs
   another EKG this AM.
   - monitor for seizure activity
   - f/u tox recs
   - avoid additional sedatives if possible
   - D5 with 1/2 NS until tube feeds at goal
   -wean propofol, reassess mental status.
   .
   # Hypercarbic Respiratory Failure: likely due to CNS depression after
   multiple ingestions.
   - on pressure support [**5-14**] with good sats
   - wean sedation
   -cuff leak present this morning
   -increased sedations this morning
   -possible extubation later today or tomorrow
 will have anesthesia
   present, may discuss with surgery also, given extreme difficulty of
   intubation in the ED.
   -stop steroids today.
   .
   # Upper Airway trauma: Pt had multiple attempts at endotracheal
   intubation and eventually required nasotracheal intubation. Now with
   significant oral/nasal/pharyngeal trauma/bleeding.  Concern for
   tracheal edema as a barrier to extubation.  Addition possibility of
   aspiration in setting of failed intubations. On DL, noted to have
   significant swelling. Started on decadron yesterday.
   -cuff leak present this morning, as above.
   -timetable for extubation will depend on mental status, secretions,
   discussion with ENT.
   .
   #?Aspiration pna: will continue vanc, clinda, levoflox awaiting culture
   data. GNR and GPC on gram stain from sputum. Patient now afebrile and
   white count decreasing.  Alternatively could just have a pneumonitis
   that is resolving.   However, with increased secretions today.
   -plan for full 7 day course for treatment of pneumonia.
   .
   # FEN: NPO after midnight for possible extubation (started on tube
   feeds yesterday).
   .
   # Prophylaxis: Pneumoboots, famotidine while intubated
   .
   # Access: 2 PIV
   .
   # Code: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-9-15**] 09:09 PM
   20 Gauge - [**2148-9-17**] 02:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2148-09-18 10:23:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, hydrocarbon ingestion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Cuff leak today
   ENT exam yesterday with some edema of the epiglottis/arytenoids
   24 Hour Events:
 EKG - At [**2148-9-17**] 08:41 PM
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2148-9-16**] 02:30 PM
   Vancomycin - [**2148-9-18**] 07:39 AM
   Clindamycin - [**2148-9-18**] 07:39 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-18**] 07:39 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2148-9-18**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 73 (61 - 82) bpm
   BP: 119/71(82) {91/49(58) - 139/80(98)} mmHg
   RR: 18 (8 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 74.4 kg
   Height: 67 Inch
             Total In:
                                                                  3,949 mL
                                                                  1,589 mL
   PO:
             TF:
                                                                     98 mL
                                                                      1 mL
   IVF:
                                                                  3,731 mL
                                                                  1,528 mL
   Blood products:
   Total out:
                                                                  2,615 mL
                                                                  1,325 mL
   Urine:
                                                                  2,615 mL
                                                                  1,125 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,334 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 557 (412 - 716) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   265 K/uL
   157 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.6 mEq/L
   8 mg/dL
   107 mEq/L
   142 mEq/L
   38.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2148-9-15**]  10:23 PM
                             [**2148-9-15**]  10:41 PM
                             [**2148-9-16**]  02:14 AM
                             [**2148-9-16**]  05:01 AM
                             [**2148-9-16**]  02:38 PM
                             [**2148-9-16**]  04:58 PM
                             [**2148-9-17**]  02:27 AM
                             [**2148-9-18**]  02:43 AM
   WBC
   12.8
   14.8
   12.8
   6.2
   Hct
   51.9
   49
   47.5
   40.4
   38.0
   Plt
   293
   261
   218
   265
   Cr
   0.8
   0.8
   0.9
   0.7
   TropT
   0.07
   0.08
   0.02
   0.03
   TCO2
   22
   24
   28
   Glucose
   94
   117
   146
   157
   Other labs: PT / PTT / INR:12.4/34.0/1.0, CK / CKMB /
   Troponin-T:501/4/0.03, ALT / AST:15/37, Alk Phos / T Bili:81/0.5,
   Differential-Neuts:79.6 %, Band:0.0 %, Lymph:13.2 %, Mono:2.1 %,
   Eos:4.8 %, Lactic Acid:1.1 mmol/L, LDH:258 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   30 y/o M with PMHx of Substance Abuse who presents with AMS s/p
   ingestion, now s/p traumatic intubation for hypercarbic respiratory
   failure.
   # Altered Mental Status s/p ingestion: Supportive care.  QTc still
   slightly prolonged - will follow
   # Hypercarbic Respiratory Failure: Will lighten sedation and plan for
   extubation today given cuff leak if pt's mental status seems
   appropriate.  Will ask anesthesia and surgery to be available given
   difficult intubation.  Cont clinda/levoflox/vanc
   # Upper Airway trauma: Continue Decadron through today
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-9-15**] 09:09 PM
   20 Gauge - [**2148-9-17**] 02:04 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2148-09-19 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2148-9-18**] 12:46 PM
   -extubated
   -didn't get another ekg. could consider for tomorrow.
   -keeped asking to leave ama in middle of nights clothes, a ride, etc.
   -got section 12ed and psych will talk to home psychiatrist in am to see
   if pt is truly risk to self
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2148-9-16**] 02:30 PM
   Clindamycin - [**2148-9-18**] 07:39 AM
   Vancomycin - [**2148-9-18**] 11:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-18**] 07:39 AM
   Diazepam (Valium) - [**2148-9-18**] 04:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-19**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 66 (61 - 92) bpm
   BP: 114/81(84) {110/60(72) - 145/102(113)} mmHg
   RR: 15 (10 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 74.4 kg
   Height: 67 Inch
                  Total In:
                                                                  2,065 mL
                                                                    400 mL
   PO:
                                                                    200 mL
                                                                    400 mL
   TF:
                                                                      1 mL
   IVF:
                                                                  1,804 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                      0 mL
   Urine:
                                                                  2,075 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -210 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   SpO2: 98%
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   287 K/uL
   12.7 g/dL
   100 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   16 mg/dL
   108 mEq/L
   145 mEq/L
   38.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2148-9-15**]  10:23 PM
                             [**2148-9-15**]  10:41 PM
                             [**2148-9-16**]  02:14 AM
                             [**2148-9-16**]  05:01 AM
                             [**2148-9-16**]  02:38 PM
                             [**2148-9-16**]  04:58 PM
                             [**2148-9-17**]  02:27 AM
                             [**2148-9-18**]  02:43 AM
                             [**2148-9-19**]  02:51 AM
   WBC
   12.8
   14.8
   12.8
   6.2
   9.6
   Hct
   51.9
   49
   47.5
   40.4
   38.0
   38.2
   Plt
   293
   261
   218
   265
   287
   Cr
   0.8
   0.8
   0.9
   0.7
   0.7
   TropT
   0.07
   0.08
   0.02
   0.03
   TCO2
   22
   24
   28
   Glucose
   94
   117
   146
   157
   100
   Other labs: PT / PTT / INR:11.7/30.4/1.0, CK / CKMB /
   Troponin-T:501/4/0.03, ALT / AST:15/37, Alk Phos / T Bili:81/0.5,
   Differential-Neuts:79.6 %, Band:0.0 %, Lymph:13.2 %, Mono:2.1 %,
   Eos:4.8 %, Lactic Acid:1.1 mmol/L, LDH:258 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Imaging: cxr
   As compared to the previous examination, the endotracheal tube and
   the nasogastric tube are in unchanged position. Unchanged retrocardiac
   opacity. Unchanged subtle right basal opacity. Newly appeared blunting
   of
   the costophrenic sinuses which could reflect minimal bilateral pleural
   effusion. Unchanged size of the cardiac silhouette.
   Microbiology: sputum cx ([**9-16**]):
      GRAM STAIN (Final [**2148-9-16**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
         STAPH AUREUS COAG +.    MODERATE GROWTH.
   [**2148-9-17**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2148-9-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2148-9-17**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2148-9-16**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   {STAPH AUREUS COAG +} INPATIENT
   [**2148-9-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2148-9-15**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2148-9-15**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   Assessment and Plan
 POISONING / OVERDOSE, OTHER
   30 y/o M with PMHx of Substance Abuse who presents with AMS s/p
   ingestion, now s/p traumatic intubation for hypercarbic respiratory
   failure.
   .
   # Altered Mental Status s/p ingestion: Pt with long h/o polysubstance
   abuse who was found down with multiple toxins/drugs surronding him,
   including solvent.   Pt with mildly elevated gap at 16 and multiple
   possible toxins including ETOH, cocaine and sedatives.  Gap has closed
   and ETOH level low.  Tox screen negative for salicylates, no e/o
   uremia, lactate NL.
   - monitor for seizure activity
   - f/u tox recs
   - avoid additional sedatives if possible
   - D5 with 1/2 NS until tube feeds at goal
   -wean propofol, reassess mental status.
   .
   # Hypercarbic Respiratory Failure: likely due to CNS depression after
   multiple ingestions.
   - on pressure support [**5-14**] with good sats
   - wean sedation
   -cuff leak present this morning
   -increased secretions this morning
   -possible extubation later today or tomorrow
 will have anesthesia
   present, may discuss with surgery also, given extreme difficulty of
   intubation in the ED.
   -finish out course of decadron today
   .
   # Upper Airway trauma: Pt had multiple attempts at endotracheal
   intubation and eventually required nasotracheal intubation. Now with
   significant oral/nasal/pharyngeal trauma/bleeding.  Concern for
   tracheal edema as a barrier to extubation.  Addition possibility of
   aspiration in setting of failed intubations. On DL, noted to have
   significant swelling. Started on decadron yesterday.
   -cuff leak present this morning, as above.
   -timetable for extubation will depend on mental status, secretions,
   discussion with ENT.
   .
   #?Aspiration pna: will continue vanc, clinda, levoflox awaiting culture
   data. GNR and GPC on gram stain from sputum. Patient now afebrile and
   white count decreasing.  Alternatively could just have a pneumonitis
   that is resolving.   However, with increased secretions today.
   -[**Month (only) 11**] take off antibiotics tomorrow as clinically and radiologically
   appears that she has a pneumonitis
   .
   # FEN: NPO after midnight for possible extubation today (started on
   tube feeds yesterday).
   .
   # Prophylaxis: Pneumoboots, famotidine while intubated
   .
   # Access: 2 PIV
   .
   # Code: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-9-15**] 09:09 PM
   20 Gauge - [**2148-9-17**] 02:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-09-19 08:52:00 Physician Attending Progress Note
Chief Complaint: Multisubstance overdose
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday
   Section 12 overnight by psychiatry
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2148-9-18**] 12:46 PM
   History obtained from Patient, icu team
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2148-9-16**] 02:30 PM
   Clindamycin - [**2148-9-18**] 07:39 AM
   Vancomycin - [**2148-9-19**] 08:16 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2148-9-18**] 04:10 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2148-9-19**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 75 (66 - 92) bpm
   BP: 118/78(87) {110/60(72) - 145/102(113)} mmHg
   RR: 21 (10 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 74.4 kg
   Height: 67 Inch
             Total In:
                                                                  2,065 mL
                                                                    800 mL
   PO:
                                                                    200 mL
                                                                    600 mL
   TF:
                                                                      1 mL
   IVF:
                                                                  1,804 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                      0 mL
   Urine:
                                                                  2,075 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -210 mL
                                                                    800 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 349 (349 - 349) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 13.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.7 g/dL
   287 K/uL
   100 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   16 mg/dL
   108 mEq/L
   145 mEq/L
   38.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2148-9-15**]  10:23 PM
                             [**2148-9-15**]  10:41 PM
                             [**2148-9-16**]  02:14 AM
                             [**2148-9-16**]  05:01 AM
                             [**2148-9-16**]  02:38 PM
                             [**2148-9-16**]  04:58 PM
                             [**2148-9-17**]  02:27 AM
                             [**2148-9-18**]  02:43 AM
                             [**2148-9-19**]  02:51 AM
   WBC
   12.8
   14.8
   12.8
   6.2
   9.6
   Hct
   51.9
   49
   47.5
   40.4
   38.0
   38.2
   Plt
   293
   261
   218
   265
   287
   Cr
   0.8
   0.8
   0.9
   0.7
   0.7
   TropT
   0.07
   0.08
   0.02
   0.03
   TCO2
   22
   24
   28
   Glucose
   94
   117
   146
   157
   100
   Other labs: PT / PTT / INR:11.7/30.4/1.0, CK / CKMB /
   Troponin-T:501/4/0.03, ALT / AST:15/37, Alk Phos / T Bili:81/0.5,
   Differential-Neuts:79.6 %, Band:0.0 %, Lymph:13.2 %, Mono:2.1 %,
   Eos:4.8 %, Lactic Acid:1.1 mmol/L, LDH:258 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   30 y/o M with PMHx of Substance Abuse who presents with AMS s/p
   ingestion, s/p traumatic intubation for hypercarbic respiratory
   failure.  Now extubated and not having any evidence of airway
   compromise.
   # Altered Mental Status s/p ingestion:  Pt now expressing desire to
   leave but deemed unsafe and not with capacity by psychgiatry.  Section
   12 initiated
   #Respiratory Failure: No evidence of respiratory disease at the
   moment.  D/C abx
   # Upper Airway trauma: Doing well post extubation
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2148-9-15**] 09:09 PM
   20 Gauge - [**2148-9-17**] 02:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: